US07098222B2
6-[2-((2R)-2-Methyl-pyrrolidin-1-yl)-ethyl]-2-(4-piperidin-1-yl-phenyl)-quinoline
The title compound was prepared using the procedure described in Example 1G using 1-(4-piperidin-1-yl-phenyl)-ethanone for 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone. 1H NMR (300 MHz, CDCl3) δ 1.14 (d, J=5.42 Hz, 3H), 1.70 (m, 10H), 2.24 (m, 1H), 2.39 (m, 2H), 3.01 (m, 2H), 3.14 (m, 1H), 3.29 (m, 5H), 7.04 (d, J=8.81 Hz, 2H), 7.56 (dd, J=8.48, 2.03 Hz, 1H), 7.59 (s, 1H), 7.80 (d, J=8.48 Hz, 1H), 8.01–8.10 (m, 4H); MS (DCI-NH3) [M+H]+ at 400.

reactant | 1-(4-piperidin-1-yl-phenyl)-ethanone | N1(CCCCC1)C1=CC=C(C=C1)C(C)=O | C13H17NO
reactant | 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)C=1SC=CC1 | C10H9NOS2
reactant | NH3 | N | H3N
product | 6-[2-((2R)-2-Methyl-pyrrolidin-1-yl)-ethyl]-2-(4-piperidin-1-yl-phenyl)-quinoline | C[C@H]1N(CCC1)CCC=1C=C2C=CC(=NC2=CC1)C1=CC=C(C=C1)N1CCCCC1 | C27H33N3
